US05352792
To a solution of 4-acetylthiomethylthio-1,2,3-triazole (230 mg: 1.22 mMol.) in dimethylformamide (6 ml) is dropwise added a 1.26N-sodium methoxide in methanol (1.9 ml) at -60° C., and the mixture is stirred for 20 minutes, mixed with a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester (740 mg: 1 mMol.) in dimethylformamide (3 ml), and stirred at the same temperature for 40 minutes. The reaction mixture is diluted with 10% hydrochloric acid (2 ml) and water (30 ml) and extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate, and purified by silica gel chromatography (toluene: ethyl acetate=2:1) to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (553 mg) as colorless foam. Yield: 70%.

reactant | 4-acetylthiomethylthio-1,2,3-triazole | 1.22 mMol, 230 mg | C(C)(=O)SCSC=1N=NNC1 | C5H7N3OS2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-methanesulfonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 1 mMol, 740 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)OS(=O)(=O)C | C34H36N4O9S3
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | methanol | 1.9 ml | CO | CH4O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 2 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-pentenoylamino]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 553 mg, Yield: 70% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=C/CC)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC=2N=NNC2 | C36H37N7O6S4
